* D:\hw\audio-visualizer\hw\Draft1.asc
V1 N001 0 5
R1 N002 N005 150
D1 N005 0 L1C1-AMB1000000000
V2 N003 0 0
R2 N004 N003 1k
Q1 N002 N004 0 0 NPN
R3 N001 N002 150
.model D D
.lib C:\Users\vladb\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\vladb\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.5 startup
.backanno
.end
