* D:\hw\audio-visualizer\hw\adc_capture.asc
D1 0 N002 Z3.3
R1 N001 N002 150
R_ADC_REF 0 N002 1Meg
V1 N001 0 5
R2 N002 N003 100k
R3 N003 0 100k
C1 N003 N006 1µ
V2 N004 0 SINE(0 1 1k) AC 3.3 0
R6 N006 N005 1k
C2 N006 0 6.8n
R7 0 N003 1Meg
R8 N005 N004 60
R4 N005 0 100k
R5 N005 0 16.5
.model D D
.lib C:\Users\vladb\AppData\Local\LTspice\lib\cmp\standard.dio
.model Z3.3 D(Is=.88f Rs=.25 Cjo=175p M=.55 nbv=1.7 bv=3.3 Vj=.75 Isr=1.86n Nr=2 Ibv=20.245m Ibvl=1.96m Nbvl=15 Tbv1=-21.3u Vpk=4.7 mfg=OnSemi type=Zener)
.ac dec 10 20 100k
.backanno
.end
